US03976778
The starting material required for the above reaction is prepared as follows: A mixture of 17.2g of ethylene urea and 28.7 g of N,N-dimethyl sulphamoyl chloride is heated at 110° for 3 hours. The reaction mixture is cooled and triturated with 100 ml methanol. Some solid material separated which is discarded. The filtrate is evaporated off to dryness and the residue is dissolved in 5% methanol in chloroform and chromatographed on a column of 150 g of silica gel. The fraction which eluted with 2% methanol in chloroform is recrystallised from a mixture of methylenechloride and hexane to give 1-(N,N-dimethylsulphamoyl)-2-oxo-tetrahydroimidazole which melts at 129°.

reactant | ethylene urea | 17.2g | C1CNC(=O)N1 | C3H6N2O
reactant | N,N-dimethyl sulphamoyl chloride | 28.7 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
product | 1-(N,N-dimethylsulphamoyl)-2-oxo-tetrahydroimidazole | CN(S(=O)(=O)N1C(NCC1)=O)C | C5H11N3O3S
